US07619086B2
Step 2: Methyl 3-cyano-3-phenylhex-5-enoate
To a cooled solution (−78° C.) of 4-cyano-4-phenyl-1-butene (6.23 g, 39.6 mmol) in anhydrous THF was added LIDS (1M in THF, 43.5 mL, 43.5 mmol) dropwise. The solution was stirred at −78° C. for 0.5 hour, then methyl bromoacetate (6.67 g, 43.6 mmol) was added dropwise. After stirring at room temperature for 24 hours, the reaction mixture was concentrated under vacuum. The residual material was purified using silica gel column chromatography eluting with 0-20% EtOAc in hexanes. The appropriate fractions were combined and concentrated to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ 7.38 (m, 5H), 5.57 (m, 1H), 5.14 (m, 2H), 3.49 (s, 3H), 3.49 (m, 2H), 2.78 (m, 2H) ppm. ES MS M+1=230.

reactant | 4-cyano-4-phenyl-1-butene | 39.6 mmol, 6.23 g | C(#N)C(CC=C)C1=CC=CC=C1 | C11H11N
reactant | methyl bromoacetate | 43.6 mmol, 6.67 g | BrCC(=O)OC | C3H5BrO2
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 3-cyano-3-phenylhex-5-enoate | C(#N)C(CC(=O)OC)(CC=C)C1=CC=CC=C1 | C14H15NO2
